US06498154B1
A mixture of 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine (3.0 g, 11.7 mmol), 3-chloro-4-fluorobenzeneboronic acid (3.1 g, 17.6 mmol), tetrakis(triphenylphosphine)palladium (0) (0.67 g, 0.59 mmol), and sodium carbonate (3.72 g, 35.1 mmol) in DME (80 mL) and water (40 mL) was subject to a blanket of nitrogen flow for 15 minutes at 50° C. and then was heated at 85° C. under nitrogen for 1 hour. The reaction was cooled to room temperature and ethyl acetate (200 mL) was added. The organic layer was washed twice with aqueous ammonium chloride (50 mL) and once with brine (50 mL), dried over sodium sulfate and concentrated to a yellow solid. The solid was triturated with ether (25 mL) and hexane (25 mL), collected on a filter, and dried to give 6-(3-chloro-4-fluorophenyl)-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine (1.87 g, 35%) as a yellow solid: mp 173-175° C.; 1H-NMR (DMSO-d6) δ 7.79 (dd, 1H, J=6.84, 2.14 Hz), 7.60-7.57 (m, 1H), 7.43-7.39 (m, 2H), 7.29 (dd, 1H, J=8.12, 2.14 Hz), 6.62 (d, 1H, J=8.54 Hz), 6.40 (s, 1H), 4.79 (q, 1H, J=5.55 Hz), 1.53 (s, 3H), 1.48 (s, 3H), 1.28 (d, 3H, J=5.55 Hz); MS (ES) m/z 306/308([M +H]+).

reactant | 6-bromo-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | 11.7 mmol, 3.0 g | BrC=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C11H14BrNO
reactant | 3-chloro-4-fluorobenzeneboronic acid | 17.6 mmol, 3.1 g | ClC=1C=C(C=CC1F)B(O)O | C6H5BClFO2
reactant | sodium carbonate | 35.1 mmol, 3.72 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | DME | 80 mL | COCCOC | C4H10O2
solvent | water | 40 mL | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium | 0.59 mmol, 0.67 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6-(3-chloro-4-fluorophenyl)-2,4,4-trimethyl-1,4-dihydro-2H-3,1-benzoxazine | 1.87 g, 35% | ClC=1C=C(C=CC1F)C=1C=CC2=C(C(OC(N2)C)(C)C)C1 | C17H17ClFNO
